### PR TITLE
[ssr] ignore shelving of unresolved TC in views

### LINKED ISSUE #15325: (ssr) Anomaly "Uncaught exception Not_found." following #13952
MathComp Analysis https://github.com/math-comp/analysis/blob/a0631bcbd1da699845c3d7ec5b01981356f46222/theories/topology.v#L1037
raises
```
File "./theories/topology.v", line 1037, characters 0-67:
Error: Anomaly "Uncaught exception Not_found."
Please report at http://coq.inria.fr/bugs/.
```

Info: https://github.com/coq/coq/issues/15325#issuecomment-991157847

Here is the backtrace obtained with `-bt`
```
Raised at file "clib/int.ml", line 39, characters 14-29
Called from file "engine/evarutil.ml", line 691, characters 12-30
Called from file "engine/proofview.ml", line 167, characters 12-37
Called from file "engine/proofview.ml", line 1006, characters 16-49
Called from file "engine/proofview_monad.ml", line 218, characters 46-49
Called from file "engine/logic_monad.ml", line 359, characters 59-69
Called from file "engine/logic_monad.ml", line 117, characters 8-12
Called from file "engine/proofview.ml", line 234, characters 12-42
Called from file "proofs/proof.ml", line 381, characters 4-49
Called from file "proofs/proof.ml", line 500, characters 31-52
Called from file "vernac/comTactic.ml", line 46, characters 23-59
Called from file "vernac/declare.ml", line 1457, characters 20-33
Called from file "vernac/comTactic.ml", line 43, characters 23-442
Called from file "vernac/vernacextend.ml", line 163, characters 32-47
Called from file "vernac/vernacinterp.ml", line 20, characters 20-113
Called from file "vernac/vernacinterp.ml", line 199, characters 24-69
Called from file "lib/flags.ml", line 17, characters 14-17
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "vernac/vernacinterp.ml", line 249, characters 18-43
Called from file "vernac/vernacinterp.ml", line 247, characters 6-279
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "stm/stm.ml", line 2169, characters 20-47
Called from file "stm/stm.ml", line 2111, characters 10-14
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "stm/stm.ml", line 964, characters 6-10
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "stm/stm.ml", line 2320, characters 4-105
Called from file "stm/stm.ml", line 2421, characters 4-60
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "toplevel/vernac.ml", line 68, characters 31-52
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "lib/flags.ml", line 17, characters 14-17
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "toplevel/vernac.ml", line 112, characters 8-69
Called from file "toplevel/vernac.ml", line 116, characters 6-19
Re-raised at file "clib/exninfo.ml", line 81, characters 4-38
Called from file "toplevel/vernac.ml", line 172, characters 30-94
Called from file "toplevel/ccompile.ml", line 146, characters 18-95
Called from file "toplevel/ccompile.ml", line 210, characters 2-59
Called from file "toplevel/coqc.ml", line 47, characters 2-100
Called from file "toplevel/coqc.ml", line 66, characters 4-36
```

A git bisect points to #13952 as the first commit exhibiting the anomaly.

#### Coq Version

8.15, master

### PR DESCRIPTION
**Pull request by gares**
fix #15325

### CODE REVIEW

File: test-suite/ssr/tcfwd.v [hunk 1]
```diff
@@ -0,0 +1,14 @@
...
+Axiom f : C -> A -> B.
+Axiom g : D -> C.
+
+Local Hint Extern 0 C => apply g;shelve : typeclass_instances.
+
+Lemma foo : A -> Type.
+Proof.
+  move=> /f. (* Not_found *)
+  intro;exact nat.
+Qed.
```
Comment (SkySkimmer) [inline test-suite/ssr/tcfwd.v:14]: changed this test a bit so we have a full proof.

**Review by SkySkimmer — APPROVED** [review]

File: test-suite/ssr/tcfwd.v (hunk 1 above)
Comment (gares) [reply test-suite/ssr/tcfwd.v:14]: ok thanks

**Comment by SkySkimmer** [comment]
@coqbot merge now
